US07795361B2
Synthesis of (methyl cinnamate)-5-norbornene-2-carboxylate
11 g (79.64 mmol) of norbornene carboxylic acid (produced from Aldrich Inc.), 12.9 g (72.4 mmol) of 4-hydroxy methylcinnamate prepared according to Example 4, 22.2 g (115.84 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (produced from Aldrich Inc.), and 14.7 g (108.6 mmol) of 1-hydroxybenzotriazole hydrate (HOBT) (produced from Aldrich Inc.) were dissolved in 100 ml of DMF in a 250 ml 2-neck flask. The temperature of the resulting solution was decreased to 0° C. and then 50 ml (362 mmol) of triethylamine was slowly dropped thereto. The temperature of the resulting solution was increased to room temperature and then the a reaction was performed for 3 hours. After the reaction was completed, the result was extracted using an excess amount of ethyl acetate. The extract was washed using NaHCO3 and H2O, dried over anhydrous MgSO4, and then filtered. The solvent of the filtrate was removed using a rotary evaporator to produce a yellow solid product, which was refined using a column chromatography (Hexane:Ethyl acetate=6:1) to attain a pure product. (Yield: 60%)

reactant | norbornene carboxylic acid | 79.64 mmol, 11 g | C12(C=CC(CC1)C2)C(=O)O | C8H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 115.84 mmol, 22.2 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 108.6 mmol, 14.7 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 362 mmol, 50 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Hexane | CCCCCC | C6H14
product | (methyl cinnamate)-5-norbornene-2-carboxylate | Yield: 60% | C12C(CC(C=C1)C2)C(=O)O.CC(C(=O)O)=CC2=CC=CC=C2 | InChI=1S/C10H10O2.C8H10O2/c1-8(10(11)12)7-9-5-3-2-4-6-9;9-8(10)7-4-5-1-2-6(7)3-5/h2-7H,1H3,(H,11,12);1-2,5-7H,3-4H2,(H,9,10)
